US08193228B2
Palladium tetrakis(triphenylphosphine) (236 mg, 0.20 mmol) was added to a degassed, ambient temperature solution of 2-(4-bromophenyl)-2,2-difluoro-N-methoxy-N-methylacetamide (600 mg, 2.05 mmol), 2-bromo-5-fluoropyridine (360 mg, 2.05 mmol) and hexamethylditin (670 mg, 2.05 mmol) in 1,4-dioxane (20 mL). After stirring at reflux overnight, the reaction mixture was diluted with water and extracted with methylene chloride and ethyl acetate. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-60% ethyl acetate/hexane afforded 2,2-difluoro-2-[4-(5-fluoropyridin-2-yl)phenyl]-N-methoxy-N-methylacetamide.

reactant | 2-(4-bromophenyl)-2,2-difluoro-N-methoxy-N-methylacetamide | 2.05 mmol, 600 mg | BrC1=CC=C(C=C1)C(C(=O)N(C)OC)(F)F | C10H10BrF2NO2
reactant | 2-bromo-5-fluoropyridine | 2.05 mmol, 360 mg | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | hexamethylditin | 2.05 mmol, 670 mg | C[Sn](C)C.C[Sn](C)C
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | Palladium tetrakis(triphenylphosphine) | 0.20 mmol, 236 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 2,2-difluoro-2-[4-(5-fluoropyridin-2-yl)phenyl]-N-methoxy-N-methylacetamide | FC(C(=O)N(C)OC)(C1=CC=C(C=C1)C1=NC=C(C=C1)F)F | C15H13F3N2O2
